US06319920B1
A solution of 1.0 M lithium aluminum hydride (200 ml, 0.2 mole) in tetrahydrofuran was added dropwise to a solution of 1-methanesulfonylpiperidine-4-carboxylic acid ethyl ester (68 grams, 0.29 mole) in tetrahydrofuran (500 ml) at about +5° C. The reaction mixture was stirred at 5-10° C. for 15 minutes. Water (10 ml) was added dropwise and the mixture was filtered. The filtrate was concentrated under reduced pressure and triturated with 50% ethyl ether-hexane (100 ml). The resulting white solid was collected and dried to give 1-methanesulfonylpiperidine-4-methanol (46 grams, 82%), m.p. 96-97° C.

reactant | lithium aluminum hydride | 0.2 mole, 1.0 M, 200 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-methanesulfonylpiperidine-4-carboxylic acid ethyl ester | 0.29 mole, 68 grams | C(C)OC(=O)C1CCN(CC1)S(=O)(=O)C | C9H17NO4S
reactant | Water | 10 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-methanesulfonylpiperidine-4-methanol | 46 grams, 82% | CS(=O)(=O)N1CCC(CC1)CO | C7H15NO3S
